US07705028B2
10a) Methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate
A solution of methyl 7-hydroxy-1-naphthalenecarboxylate (1.68 g, 8.34 mmol) in methylene chloride (21 mL) was stirred in an ice/acetone bath as pyridine (4.1 mL) was added followed by trifluoromethanesulfonic anhydride (1.7 mL, 10 mmol). The solution was allowed to stir for 1.5 hours before being partitioned between water and ether. The organic layer was washed with 1.0 N HCl, then brine, before being dried with magnesium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel (hexane to 1:9 ethyl acetate:hexanes) to provide the title compound (2.60 g, 93.2%).

reactant | methyl 7-hydroxy-1-naphthalenecarboxylate | 8.34 mmol, 1.68 g | OC1=CC=C2C=CC=C(C2=C1)C(=O)OC | C12H10O3
reactant | pyridine | 4.1 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 10 mmol, 1.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 21 mL | C(Cl)Cl | CH2Cl2
product | Methyl 7-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthalenecarboxylate | 2.60 g, 93.2% | FC(S(=O)(=O)OC1=CC=C2C=CC=C(C2=C1)C(=O)OC)(F)F | C13H9F3O5S
